US07420066B2
{3-[2-(2,4-Dichloro-benzoyl)-3-methyl-benzofuran-6-yl]-phenyl}-acetic acid methyl ester was prepared via a Suzuki coupling of (6-Bromo-3-methyl-benzofuran-2-yl)-(2,4-dichloro-phenyl)-methanone and 3-Bromo-phenyl)-acetic acid methyl ester as described in method 1 step 5. MS ES (MH+)453.1, RT=4.27 min).

reactant | (6-Bromo-3-methyl-benzofuran-2-yl)-(2,4-dichloro-phenyl)-methanone | BrC1=CC2=C(C(=C(O2)C(=O)C2=C(C=C(C=C2)Cl)Cl)C)C=C1 | C16H9BrCl2O2
reactant | acetic acid methyl ester | COC(C)=O | C3H6O2
product | {3-[2-(2,4-Dichloro-benzoyl)-3-methyl-benzofuran-6-yl]-phenyl}-acetic acid methyl ester | COC(CC1=CC(=CC=C1)C1=CC2=C(C(=C(O2)C(C2=C(C=C(C=C2)Cl)Cl)=O)C)C=C1)=O | C25H18Cl2O4
